US09260412B2
Preparation of 2-[5-cyclopropyl-1-(4-ethoxy-2,6-difluorobenzyl)-4-methyl-1H-pyrazol-3-yl]-5-[2-(methylsulfinyl)ethoxy]-N-(pyridin-4-yl)pyrimidin-4-amine
180 mg 2-[5-cyclopropyl-1-(4-ethoxy-2,6-difluorobenzyl)-4-methyl-1H-pyrazol-3-yl]-5-[2-(methylsulfanyl)ethoxy]-N-(pyridin-4-yl)pyrimidin-4-amine (0.326 mmol, 1.0 eq.) were dissolved in 1.7 mL chloroform and cooled to 0° C. 80.3 mg 3-chlorobenzenecarboperoxoic acid and the reaction mixture was stirred at 0° C. for 30 minutes. The reaction mixture was diluted with DCM and a solution of sodium thiosulfate (10% in water) was added and stirred for 5 minutes. The layers were separated and the aqueous layer was washed with DCM twice. The combined organic layers were washed with saturated sodium hydrogencarbonate solution, was dried over a silicon filter and concentrated in vacuo. The crude product was purified by flash chromatography to provide 136 mg of the analytically pure target compound as a racemate.

reactant | 2-[5-cyclopropyl-1-(4-ethoxy-2,6-difluorobenzyl)-4-methyl-1H-pyrazol-3-yl]-5-[2-(methylsulfanyl)ethoxy]-N-(pyridin-4-yl)pyrimidin-4-amine | 0.326 mmol, 180 mg, 1.0 eq. | C1(CC1)C1=C(C(=NN1CC1=C(C=C(C=C1F)OCC)F)C1=NC=C(C(=N1)NC1=CC=NC=C1)OCCSC)C | C28H30F2N6O2S
reactant | 3-chlorobenzenecarboperoxoic acid | 80.3 mg | ClC=1C=C(C=CC1)C(=O)OO | C7H5ClO3
reactant | sodium thiosulfate | S(=S)(=O)([O-])[O-].[Na+].[Na+]
solvent | chloroform | 1.7 mL | C(Cl)(Cl)Cl | CHCl3
solvent | DCM | C(Cl)Cl | CH2Cl2
product | 2-[5-cyclopropyl-1-(4-ethoxy-2,6-difluorobenzyl)-4-methyl-1H-pyrazol-3-yl]-5-[2-(methylsulfinyl)ethoxy]-N-(pyridin-4-yl)pyrimidin-4-amine | C1(CC1)C1=C(C(=NN1CC1=C(C=C(C=C1F)OCC)F)C1=NC=C(C(=N1)NC1=CC=NC=C1)OCCS(=O)C)C | C28H30F2N6O3S
